US06307047B1
2-(3-Chloro-4-fluorophenyl)-4-(4-fluorophenyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 384, substituting 2-(3-chloro-4-fluorophenyl)-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-benzyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 380 mg, 47%). mp 208-210° C. 1H NMR (300 MHz, DMSO-d6) δ 7.15 (t, 2H), 7.27 (m, 2H), 7.43 (s, 1H), 7.45 (bs, 2H) 7.51 (d, J=9 Hz, 4H), 7.6 (t, 1H), 7.7 (m, 1H), 7.75 (d, J=9 Hz, 2H), 7.94 (dd, 1H), 8.25 (s, 1H). MS (DCI/NH3) m/z 474 (M+H)+, 491 (M+NH4)+. Anal. calc. for C22H14F2Cl2N3O3S.0.5 H2O: C, 55.76; H, 2.98; N, 8.87. Found: C, 56.05; H, 3.42; N, 8.65.

reactant | 2-(3-chloro-4-fluorophenyl)-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1F)N1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C23H15ClF2N2O3S
reactant | NH3 | N | H3N
solvent | H2O | O | H2O
product | 2-(3-Chloro-4-fluorophenyl)-4-(4-fluorophenyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1F)N1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)N | C22H14ClF2N3O3S
